US05703110
20b) 4'-Methyl-2-biphenylcarbaldehyde
To a suspension of magnesium metal (1.1 g) in THF (3 ml) was added dropwise a solution of 4-bromotoluene (7.5 g) in THF (10 ml) under gentle reflux. The resulting solution of the Grignard reagent was added dropwise to an ice-cooled, stirred solution of N-(2-methoxyphenyl)methylidenecyclohexylamine (4.3 g) in THF (30 ml). The reaction mixture was stirred at room temperature for 1.5 hours, followed by heating under reflux for 7 hours. After addition of ice-water, the reaction mixture was acidified with conc. hydrochloric acid. The reaction mixture was extracted with ethyl acetate and the extract was washed with 1N-hydrochloric acid and water, dried and evaporated to dryness. The residue was purified by column chromatography on silica gel to give pale yellow syrup (2.0 g, 51%).

reactant | magnesium | 1.1 g | [Mg] | Mg
reactant | 4-bromotoluene | 7.5 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | N-(2-methoxyphenyl)methylidenecyclohexylamine | 4.3 g | COC1=C(C=CC=C1)C=NC1CCCCC1 | C14H19NO
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 3 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
product | 4'-Methyl-2-biphenylcarbaldehyde | 2.0 g, 51% | CC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C14H12O
